US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-acetylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 104 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 95 mg of 3-acetylimidazo[5,1-b]thiazole were used, thereby obtaining 15.7 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 104 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 3-acetylimidazo[5,1-b]thiazole | 95 mg | C(C)(=O)C=1N2C(SC1)=CN=C2 | C7H6N2OS
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-acetylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 15.7 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3C(C)=O)=C2)C(=O)[O-])C1=O | C18H19N3O5S
